US04160841
A mixture of 5.2 parts of 2-ethyl-1-(4-methoxyphenyl)-1H-imidazole and 75 parts of hydrobromic acid solution 48% in glacial acetic acid is stirred and refluxed overnight. The solvent is evaporated and the residue is triturated in 2-propanone. The product is filtered off and dried, yielding 6.1 parts (100%) of 4-(2-ethyl-1H-imidazol-1-yl)phenol monohydrobromide.

reactant | 2-ethyl-1-(4-methoxyphenyl)-1H-imidazole | C(C)C=1N(C=CN1)C1=CC=C(C=C1)OC | C12H14N2O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-ethyl-1H-imidazol-1-yl)phenol monohydrobromide | 100% | Br.C(C)C=1N(C=CN1)C1=CC=C(C=C1)O | InChI=1S/C11H12N2O.BrH/c1-2-11-12-7-8-13(11)9-3-5-10(14)6-4-9;/h3-8,14H,2H2,1H3;1H
